US07915261B2
Sodium methoxide (393 mg) was added to a methanol (20 ml) solution containing 5-(benzenesulfonyloxy)-2-(bromomethyl)pyridine (Beilstein Registry No. 7430370, 800 mg), followed by stirring at room temperature for 4 hours. Water was added to the reaction solution, followed by extraction with EtOAc. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: EtOAc) to obtain 6-(methoxymethyl)pyridin-3-ol (200 mg).

reactant | Sodium methoxide | 393 mg | C[O-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
reactant | 5-(benzenesulfonyloxy)-2-(bromomethyl)pyridine | 800 mg | C1(=CC=CC=C1)S(=O)(=O)OC=1C=CC(=NC1)CBr | C12H10BrNO3S
solvent | Water | O | H2O
product | 6-(methoxymethyl)pyridin-3-ol | 200 mg | COCC1=CC=C(C=N1)O | C7H9NO2
